US05380896
In a kneading drier, 4.27 kg of β-mercaptopropionic acid are added by spraying to 14.53 kg of dioctyltin oxide over a period of 6 minutes. The mixture thus obtained is heated at 60° C. for a period of 20 minutes with thorough mixing and under a pressure of 120 hPa (=120 mbar), during which the water of reaction formed escapes. The mixture is then cooled to room temperature while thorough mixing of the product is continued. Dioctyltin β-mercaptopropionate is obtained as a white free-flowing solid.

reactant | β-mercaptopropionic acid | 4.27 kg | SCCC(=O)O | C3H6O2S
reactant | dioctyltin oxide | 14.53 kg | C(CCCCCCC)[Sn](CCCCCCCC)=O
solvent | water | O | H2O
product | Dioctyltin β-mercaptopropionate | SCCC(=O)[O-].C(CCCCCCC)[Sn+2]CCCCCCCC.SCCC(=O)[O-] | InChI=1S/2C8H17.2C3H6O2S.Sn/c2*1-3-5-7-8-6-4-2;2*4-3(5)1-2-6;/h2*1,3-8H2,2H3;2*6H,1-2H2,(H,4,5);/q;;;;+2/p-2
